US07241785B2
A mixture of methyl 4-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)phenyl]acetoxy-5-oxo-5-phenylpentanoate (1.34 g), ammonium acetate (685 mg) and acetic acid (5 ml) was refluxed for 3 hrs. After cooling, ethyl acetate was added to the reaction mixture. The obtained ethyl acetate solution was washed with saturated aqueous sodium hydrogen carbonate and then saturated brine, dried (MgSO4) and concentrated. The residue was subjected to silica gel column chromatography, and methyl 3-[2-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyl]-4-phenyl-5-oxazolyl]propionate (1.07 g, yield 83%) was obtained as a colorless oil from a fraction eluted with ethyl acetate-hexane (2:5, volume ratio).

reactant | methyl 4-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)phenyl]acetoxy-5-oxo-5-phenylpentanoate | 1.34 g | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(C=C1)CC(=O)OC(CCC(=O)OC)C(C1=CC=CC=C1)=O | C31H29NO7
reactant | ammonium acetate | 685 mg | C(C)(=O)[O-].[NH4+]
reactant | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl 3-[2-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyl]-4-phenyl-5-oxazolyl]propionate | 1.07 g, yield 83% | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(CC=2OC(=C(N2)C2=CC=CC=C2)CCC(=O)OC)C=C1 | C31H28N2O5
